US06228877B1
3-(6-cyano-1-methyl-1H-indol-3-yl)-4-(1-methyl-6-nitro-1H-indol-3-yl)-pyrrole-2,5-dione (9.0 g, 21 mmole) was suspended in ethanol (1.8 L) and treated with tin (II) chloride dihydrate (35 g, 156 mmole). This was mechanically stirred for 16 h at reflux. The reaction was cooled and reduced in volume to 1L. This was poured into a mixture of ethyl acetate (2 L) and saturated sodium bicarbonate solution (1 L) and well mixed. The organic layer was decanted and washed with saturated sodium bicarbonate solution, dried over magnesium sulfate, filtered, evaporated, and then purified by flash column chromatography (ethyl acetate). The product was further purified by crystalization from tetrahydrofuran/hexane to provide 6.5 g of 3-[4-(6-amino-1-methyl-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-1H-pyrrol-3-yl]-1-methyl-1H-indole-6-carbonitrile; mp 255-260° C.

reactant | 3-(6-cyano-1-methyl-1H-indol-3-yl)-4-(1-methyl-6-nitro-1H-indol-3-yl)-pyrrole-2,5-dione | 21 mmole, 9.0 g | C(#N)C1=CC=C2C(=CN(C2=C1)C)C=1C(NC(C1C1=CN(C2=CC(=CC=C12)[N+](=O)[O-])C)=O)=O | C23H15N5O4
reactant | tin (II) chloride dihydrate | 156 mmole, 35 g | O.O.[Sn](Cl)Cl
reactant | ethyl acetate | 2 L | C(C)(=O)OCC | C4H8O2
reactant | sodium bicarbonate | 1 L | C([O-])(O)=O.[Na+]
solvent | ethanol | 1.8 L | C(C)O | C2H6O
product | 3-[4-(6-amino-1-methyl-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-1H-pyrrol-3-yl]-1-methyl-1H-indole-6-carbonitrile | 6.5 g | NC1=CC=C2C(=CN(C2=C1)C)C1=C(C(NC1=O)=O)C1=CN(C2=CC(=CC=C12)C#N)C | C23H17N5O2
